US06653471B2
A solution of 3,4,5,6-tetrahydro-3,10-diaza-benzo[e]azulene-1-carboxylic acid {2-[2-(tetrahydropyran-2-yloxy)-ethoxy]-pyridin-3-yl}amide (850 mg) and p-toluenesulfonic acid monohydrate (700 mg) in methanol (30 mL) is refluxed for 1 h. The solvent is removed and the residue is extracted with DCM and washed with NaHCO3 (aq.). The organic layer is dried and solvent removed to give 700 mg of 3,4,5,6-tetrahydro-3,10-diazabenzo[e]azulene-1-carboxylic acid [2-(2-hydroxy-ethoxy)pyridin-3-yl]amide.

reactant | 3,4,5,6-tetrahydro-3,10-diaza-benzo[e]azulene-1-carboxylic acid {2-[2-(tetrahydropyran-2-yloxy)-ethoxy]-pyridin-3-yl}amide | 850 mg | O1C(CCCC1)OCCOC1=NC=CC=C1NC(=O)C1=CNC=2CCCC3=C(C12)N=CC=C3 | C25H28N4O4
reactant | p-toluenesulfonic acid monohydrate | 700 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 30 mL | CO | CH4O
product | 3,4,5,6-tetrahydro-3,10-diazabenzo[e]azulene-1-carboxylic acid [2-(2-hydroxy-ethoxy)pyridin-3-yl]amide | 700 mg | OCCOC1=NC=CC=C1NC(=O)C1=CNC=2CCCC3=C(C12)N=CC=C3 | C20H20N4O3
